US06153768
Synthesis of (3RS,4RS)-7-hydroxy-3-(4-hydroxyphenyl)-3-methyl-4-[9-(4,4,5,5,5-pentafluoropentylthio)nonyl]-2,3-dihydro-4H-benzopyran
(3RS,4RS)-7-Methoxymethyloxy-3-[4-(methoxymethyloxy)phenyl]-3-methyl-4-[9-(4,4,5,5,5-pentafluoropentylthio)nonyl]-2,3-dihydro-4H-benzopyran (100 mg, 0.15 mmol) and pyridinium p-toluenesulfonate (380 mg, 1.5 mmol) were dissolved in methanol (5 ml) and refluxed for 4 hours. The reaction solution was cooled to room temperature and, after adding water, extracted with ethyl acetate. The extracted organic layer was dried over magnesium sulfate and concentrated. The residue was subjected to column chromatography (n-hexane:ethyl acetate=4:1) to obtain 57 mg (yield: 66%) of the title compound as a colorless oil.

reactant | (3RS,4RS)-7-Methoxymethyloxy-3-[4-(methoxymethyloxy)phenyl]-3-methyl-4-[9-(4,4,5,5,5-pentafluoropentylthio)nonyl]-2,3-dihydro-4H-benzopyran | 0.15 mmol, 100 mg | COCOC1=CC2=C(C(C(CO2)(C)C2=CC=C(C=C2)OCOC)CCCCCCCCCSCCCC(C(F)(F)F)(F)F)C=C1 | C34H47F5O5S
reactant | pyridinium p-toluenesulfonate | 1.5 mmol, 380 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | water | O | H2O
solvent | methanol | 5 ml | CO | CH4O
product | (3RS,4RS)-7-hydroxy-3-(4-hydroxyphenyl)-3-methyl-4-[9-(4,4,5,5,5-pentafluoropentylthio)nonyl]-2,3-dihydro-4H-benzopyran | 57 mg, yield: 66% | OC1=CC2=C(C(C(CO2)(C)C2=CC=C(C=C2)O)CCCCCCCCCSCCCC(C(F)(F)F)(F)F)C=C1 | C30H39F5O3S
